US04344959
Preparation of 3-[1,9-dimethoxy-5,9-dimethyl-2(E)decenylidene]-4-butyrolactone (Ih, R1 =CH3O, Z1 =H)
1 ml of methanol saturated with hydrochloric acid is added to a solution of 1.05 g (0.0033 moles) of 3-(9-methoxy-3-hydroxy-5,9-dimethyl-decanoyl)-4-butyrolactone in 10 ml of dry methanol, and the mixture is allowed to stand at room temperature overnight. The solvent is distilled off in vacuo, the residue is dissolved in ether, the etheral solution is washed with distilled water, dried, the solvent is distilled off, and the residue is purified by column chromatography (adsorbent: Kieselgel 60, solvent: a 10:0.1 mixture of benzene and methanol). 0.54 g (52.1%) of the aimed compound are obtained; Rf =0.8 (developed with a 10:0.2 mixture of benzene and methanol).

reactant | hydrochloric acid | Cl | ClH
reactant | 3-(9-methoxy-3-hydroxy-5,9-dimethyl-decanoyl)-4-butyrolactone | 0.0033 moles, 1.05 g | COC(CCCC(CC(CC(=O)C1CC(=O)OC1)O)C)(C)C | C17H30O5
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 1 ml | CO | CH4O
product | 3-[1,9-dimethoxy-5,9-dimethyl-2(E)decenylidene]-4-butyrolactone | 0.54 g, 52.1% | COC(\C=C\CC(CCCC(C)(C)OC)C)=C1CC(=O)OC1 | C18H30O4
